US07163951B2
To a solution of 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine 1-oxide (1.835 g, 5.983 mmol) and triethylamine (1.816 g, 17.95 mmol) in 10 mL DMF was added trimethylsilyl cyanide (1.781 g, 17.95 mmol). The reaction mixture was heated to 80° C. for 3 hours (added another 0.592 g, 2.98 mmol TMS-CN at this point and let stir another hour), then cooled to room temperature and partitioned between ethyl acetate and water. The organic extract was washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuum to provide crude 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine-2-carbonitrile that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 315.14 for M+H+. The 1H NMR also shows that the isomeric 5-chloro-3-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]pyridine-2-carbonitrile was present in about 20%. This would be separated out in a later step.

reactant | 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine 1-oxide | 5.983 mmol, 1.835 g | ClC=1C=[N+](C=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)[O-] | C13H9ClFN5O
reactant | triethylamine | 17.95 mmol, 1.816 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 17.95 mmol, 1.781 g | C[Si](C)(C)C#N | C4H9NSi
reactant | TMS-CN | 2.98 mmol, 0.592 g | [Si](C)(C)(C)C#N | C4H9NSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-[3-fluoro-2-(2-methyl-2H-tetrazol-5-yl)phenyl]-pyridine-2-carbonitrile | ClC=1C(=NC=C(C1)C1=C(C(=CC=C1)F)C=1N=NN(N1)C)C#N | C14H8ClFN6
